US07612084B2
N-(5-{(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[(7-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenoxy}heptyl)amino]ethyl}-2-hydroxyphenyl)methanesulfonamide
N-{2-(Benzyloxy)-5-[(1R)-2-[(7-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenoxy}heptyl)amino]-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl]phenyl}methanesulfonamide (Preparation 19, 96 mg, 0.10 mmol) and palladium hydroxide (20% by weight on carbon, 25 mg, 0.04 mmol) were dissolved in ethanol (3 ml), then ammonium formate (69 mg, 1.1 mmol) was added and heated to 80° C. for 1 hour. The reaction was cooled to room temperature and the mixture was filtered through Arbocel™ and the solvent removed in vacuo. The residue was dissolved in dichloromethane (containing a trace of methanol) and washed with water (brine was added to aid in the separation), the organic layer was dried (magnesium sulphate), filtered, and the solvents removed in vacuo to yield the title compound as a white foam, 68 mg.

reactant | N-{2-(Benzyloxy)-5-[(1R)-2-[(7-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenoxy}heptyl)amino]-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl]phenyl}methanesulfonamide | 0.10 mmol, 96 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCCCCCCOC1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)NS(=O)(=O)C | C57H81N3O6SSi
reactant | ammonium formate | 1.1 mmol, 69 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.04 mmol, 25 mg | [OH-].[Pd+2].[OH-]
product | N-(5-{(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[(7-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenoxy}heptyl)amino]ethyl}-2-hydroxyphenyl)methanesulfonamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCCCCCCOC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C43H69N3O6SSi
